US06114394
Combine N,N'-bis-[2,2'-bis(cyano)ethyl]-1,8-diamino-octane (50 g) with PtO2 (2.0 g) in concentrated hydrochloric acid (133 mL). Place in a shaker flask at 45 lbs./sq. in. until hydrogen is no longer taken up. Filter the mixture and remove the solvent under vacuum. Triturate the residue with ethanol (1 L). Collect the product by filtration and dry the product to provide 1,5,14,18-tetraazaoctadecane tetrahydrochloride (51.6 g), Rf =0.17 eluting with 40% NH3 /methanol.

reactant | N,N'-bis-[2,2'-bis(cyano)ethyl]-1,8-diamino-octane | 50 g | C(#N)C(CNCCCCCCCCNCC(C#N)C#N)C#N | C16H24N6
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 133 mL | Cl | ClH
catalyst | PtO2 | 2.0 g | O=[Pt]=O
product | 1,5,14,18-tetraazaoctadecane tetrahydrochloride | 51.6 g | Cl.Cl.Cl.Cl.NCCCNCCCCCCCCNCCCN | InChI=1S/C14H34N4.4ClH/c15-9-7-13-17-11-5-3-1-2-4-6-12-18-14-8-10-16;;;;/h17-18H,1-16H2;4*1H
